US08791142B2
Step 2) 3-(2-(chloromethyl)pyridin-4-yl)-5-(2-(methoxymethyl)-2′-methylbiphenyl-4-yl)-1,2,4-oxadiazole
To a solution of (4-(5-(2-(methoxymethyl)-2′-methylbiphenyl-4-yl)-1,2,4-oxadiazol-3-yl)pyridin-2-yl)methanol (0.282 g; 0.73 mmol) and DIEA (0.25 mL; 1.46 mmol) in DCM (6 mL) was added methanesulfonyl chloride (0.062 mL; 0.80 mmol). The mixture was stirred at ambient temperature for 1 hour and water added. The mixture was passed through a hydrophobic frit and the solvent was evaporated in vacuo. The residue was purified by flash chromatography on silica, eluting with iso-hexane/EtOAc (100% iso-hexane to 100% EtOAc) to afford the title compound. 1H NMR (CDCl3, 400 MHz) δ 8.78 (1 H, d, J=5.1 Hz), 8.44 (1 H, d, J=1.8 Hz), 8.26 (1 H, s), 8.18 (1 H, dd, J=7.9, 1.9 Hz), 8.02 (1 H, dd, J=5.1, 1.5 Hz), 7.37-7.22 (4 H, m), 7.13 (1 H, d, J=7.5 Hz), 4.79 (2 H, s), 4.28-4.18 (2 H, m), 3.34 (3 H, s), 2.08 (3 H, s).

reactant | (4-(5-(2-(methoxymethyl)-2′-methylbiphenyl-4-yl)-1,2,4-oxadiazol-3-yl)pyridin-2-yl)methanol | 0.73 mmol, 0.282 g | COCC1=C(C=CC(=C1)C1=NC(=NO1)C1=CC(=NC=C1)CO)C1=C(C=CC=C1)C | C23H21N3O3
reactant | DIEA | 1.46 mmol, 0.25 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 0.80 mmol, 0.062 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-(chloromethyl)pyridin-4-yl)-5-(2-(methoxymethyl)-2′-methylbiphenyl-4-yl)-1,2,4-oxadiazole | ClCC1=NC=CC(=C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=C(C=CC=C1)C)COC | C23H20ClN3O2
